US06423689B1
(S)-2-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-(4-hydroxyphenyl)-propionic acid tert-butyl ester
A solution of -tyrosine t-butyl ester (Bachem, 20.0 g, 84.3 mmol) and FMOC-OSu (Bachem, 24.68 g, 71.2 mmol) was dissolved in 400 mL of dioxane and 400 mL of water. The pH of the resulting solution was adjusted to pH=9 and the solution stirred overnight at room temperature. The reaction mixture was concentrated to ½ volume and treated with concentrated HCl until the pH=5. The resulting solution was extracted with ethyl acetate (5×150 mL), the combined organic extracts were dried with MgSO4 and concentrated. The residue was crystallized from hot heptane/EtOAc. The solid that formed was collected by filtration and air dried to give the title compound (28.5 g, 87%) as a white solid.

reactant | tyrosine t-butyl ester | 84.3 mmol, 20.0 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | FMOC-OSu | 71.2 mmol, 24.68 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | water | 400 mL | O | H2O
product | (S)-2-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-(4-hydroxyphenyl)-propionic acid tert-butyl ester | 28.5 g, 87% | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C28H29NO5
